US06127386
187c. 3-(1-BOC-2-(S)-pyrrolidinylmethoxy)-6-ethenyl-5-methylpyridine
3-(1-BOC-2-(S)-pyrrolidinylmethoxy)-6-chloro-5-methylpyridine (830 mg, 2.57 mmol) in toluene (10 mL) was added [1,1'-bis(diphenyl-phosphino)ferrocene]dichloropalladium(U) (83 mg) and allyltributyltin (1.3 mL, 5.1 mmol). The mixture was stirred and refluxed for 16 h. Solvent was evaporated and the residue was chromatographed (silica gel; hexane/EtOAc, 10:1 to 3:2) to afford an oil (450 mg, 57%): 1H NMR (CDCl3, 300 MHz) δ 1.47 (s, 9H), 1.62 (m, 1H), 1.86 (m, 1H), 2.00-2.10 (m, 2H), 2.34 (s, 3H), 3.30-3.46 (m, 2H), 3.90 (m, 1H), 4.04-4.20 (m, 2H), 5.37 (d, 1H, J=11.0 Hz), 6.20 (d, 1H, J=17.0 Hz), 6.94 (dd, 1H, J=11.0, 17.0 Hz), 7.02 (br s, 1H), 8.14 (d, 1H, J=2.5 Hz); MS (CI/NH3) m/z 319 (M+H)+.

reactant | 3-(1-BOC-2-(S)-pyrrolidinylmethoxy)-6-chloro-5-methylpyridine | 2.57 mmol, 830 mg | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)COC=1C=NC(=C(C1)C)Cl | C16H23ClN2O3
reactant | allyltributyltin | 5.1 mmol, 1.3 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(1-BOC-2-(S)-pyrrolidinylmethoxy)-6-ethenyl-5-methylpyridine | 450 mg, 57% | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)COC=1C=NC(=C(C1)C)C=C | C18H26N2O3
